### PR TITLE
[Merged by Bors] - chore: fix defeq abuse in the definition of MFDeriv

### PR DESCRIPTION
**Pull request by sgouezel**
The current definition of the manifold derivative relies on wild defeq abuse between the tangent space at a point and the model space. This PR introduces continuous linear maps making these identifications explicit, and uses them to avoid the defeq abuse in the definitions.

The goal of this PR is *not* to fix all the defeq abuses: when dealing with vector spaces, the fact that one can transparently identify a vector space and the tangent space to the vector space is a feature of the implementation, not a defect.

---

- [x] depends on: ##42374

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/IsManifold/Basic.lean [hunk 1]
```diff
@@ -1051,15 +1051,30 @@ variable {𝕜 : Type*} [NontriviallyNormedField 𝕜]
...
+  map_smul' c x := rfl
+
 /-- Identifying the tangent space at a normed space with the normed space itself.
 This canonical identification (which, in mathlib, is implemented using an abuse of definitional
 equality) is very prevalent in a number of places: this device allows making it explicit. -/
-def NormedSpace.fromTangentSpace (v : E) : TangentSpace 𝓘(𝕜, E) v ≃L[𝕜] E where
+def NormedSpace.fromTangentSpace (v : E) : TangentSpace 𝓘(𝕜, E) v ≃L[𝕜] E :=
+  tangentSpaceCastModel 𝓘(𝕜, E) v
+
+/-- Definitional identification between the tangent space of a manifold at two points. This only
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/Basic.lean:1069]: Should this definition also carry a strong comment to not use (unless when setting up foundational theory)?

File: Mathlib/Geometry/Manifold/IsManifold/Basic.lean [hunk 2]
```diff
@@ -1051,15 +1051,30 @@ variable {𝕜 : Type*} [NontriviallyNormedField 𝕜]
   {H : Type*} [TopologicalSpace H] (I : ModelWithCorners 𝕜 E H)
   {M : Type*} [TopologicalSpace M] [ChartedSpace H M] {x : M}
 
-set_option backward.isDefEq.respectTransparency false in
+/-- Definitional identification between the tangent space of a manifold at a point and the
+model space. *Do not use*, unless when setting up foundational properties of the tangent space:
+this definition is a technical detail related to our specific implementation of tangent spaces,
+but it has no mathematical meaning. The mathematically meaningful version of this definition
+is the derivative of the extended chart at `x`. -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/Basic.lean]: Strictly speaking, that's the `mvfderiv` (not the mfderiv) --- how about mentioning this detail?

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! I am curious how painful this will be in the end. Two minor comments in the documentation in the first file.

File: Mathlib/Geometry/Manifold/IsManifold/Basic.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/IsManifold/Basic.lean:1069]: No, because you can have two points which are propositionally equal, and for which you need to identify the tangent spaces. That's exactly the function you need for this.

File: Mathlib/Geometry/Manifold/IsManifold/Basic.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/IsManifold/Basic.lean]: Good idea, let me do this.

File: Mathlib/Geometry/Manifold/IsManifold/Basic.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/IsManifold/Basic.lean:1069]: Fair. (And as I realized again later today, this may actually be fairly common --- such as when using the chain rule, and transitioning between the tangent spaces at `(g ∘ f) x` and `g (f x)`.)

File: Mathlib/Geometry/Manifold/IsManifold/Basic.lean [hunk 3]
```diff
@@ -1051,15 +1051,30 @@ variable {𝕜 : Type*} [NontriviallyNormedField 𝕜]
   {H : Type*} [TopologicalSpace H] (I : ModelWithCorners 𝕜 E H)
   {M : Type*} [TopologicalSpace M] [ChartedSpace H M] {x : M}
 
-set_option backward.isDefEq.respectTransparency false in
+/-- Definitional identification between the tangent space of a manifold at a point and the
+model space. *Do not use*, unless when setting up foundational properties of the tangent space:
+this definition is a technical detail related to our specific implementation of tangent spaces,
+but it has no mathematical meaning. The mathematically meaningful version of this definition
+is the derivative of the extended chart at `x`, in its `mvfderiv` version. -/
```
Comment (kbuzzard) [inline Mathlib/Geometry/Manifold/IsManifold/Basic.lean:1056]: Can you write in this docstring the name of the declaration which you want people to use instead (like you have helpfully done in the other two docstrings of this nature added in this PR)?

File: Mathlib/Geometry/Manifold/Instances/Sphere.lean [hunk 4]
```diff
@@ -493,7 +493,7 @@ canonical. -/
 theorem range_mfderiv_coe_sphere {n : ℕ} [Fact (finrank ℝ E = n + 1)] (v : sphere (0 : E) 1) :
     (mfderiv (𝓡 n) 𝓘(ℝ, E) ((↑) : sphere (0 : E) 1 → E) v : TangentSpace (𝓡 n) v →L[ℝ] E).range =
       (ℝ ∙ (v : E))ᗮ := by
-  rw [((contMDiff_coe_sphere v).mdifferentiableAt one_ne_zero).mfderiv]
+  rw [((contMDiff_coe_sphere v).mdifferentiableAt one_ne_zero).mfderiv_abuse]
```
Comment (kbuzzard) [inline Mathlib/Geometry/Manifold/Instances/Sphere.lean]: According to the docstring added in this PR, "Use instead `MDifferentiableAt.mfderiv`, unless you have good reasons not to do so". So I am assuming that here you have good reasons not to do so. Is it possible to make a comment briefly explaining these reasons here? I am envisioning a future where we have Grassmannians as manifolds in mathlib, and I am imagining that there will be similar kinds of lemmas for them.

Edit: Oh! I just saw the comment above the TODO. So presumably the answer is that this is a temporary measure and shouldn't actually be here? 

(I have been looking at this construction recently because I have been supervising a summer student who is attempting to put a Riemannian metric on the sphere)

File: Mathlib/Geometry/Manifold/Instances/Sphere.lean [hunk 5]
```diff
@@ -529,7 +529,7 @@ set_option backward.isDefEq.respectTransparency false in
 linear map from `TangentSpace (𝓡 n) v` to `E`.  This map is injective. -/
 theorem mfderiv_coe_sphere_injective {n : ℕ} [Fact (finrank ℝ E = n + 1)] (v : sphere (0 : E) 1) :
     Injective (mfderiv (𝓡 n) 𝓘(ℝ, E) ((↑) : sphere (0 : E) 1 → E) v) := by
-  rw [((contMDiff_coe_sphere v).mdifferentiableAt one_ne_zero).mfderiv]
+  rw [((contMDiff_coe_sphere v).mdifferentiableAt one_ne_zero).mfderiv_abuse]
```
Comment (kbuzzard) [inline Mathlib/Geometry/Manifold/Instances/Sphere.lean]: (ditto)

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean [hunk 6]
```diff
@@ -76,7 +76,7 @@ lemma isMIntegralCurve_abs_add_one_of_isMIntegralCurveOn_Ioo [BoundarylessManifo
   have ht : t ∈ Ioo (-(|t| + 1)) (|t| + 1) := by
     rw [mem_Ioo, ← abs_lt]
     exact lt_add_one _
-  apply HasMFDerivAt.congr_of_eventuallyEq (f := γ (|t| + 1))
+  apply HasMFDerivAt.congr_of_eventuallyEq_abuse (f := γ (|t| + 1))
```
Comment (kbuzzard) [inline Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:79]: Here there is no TODO saying "this proof should be fixed" so should one be added, or is this one occasion where one should be using this? I think it's best if at this point you say a little more about what is going on.

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 7]
```diff
@@ -664,13 +676,13 @@ protected theorem HasMFDerivWithinAt.mfderivWithin (h : HasMFDerivAt[s] f x f')
...
 
-set_option backward.isDefEq.respectTransparency false in
 theorem HasMFDerivWithinAt.mfderivWithin_eq_zero (h : HasMFDerivWithinAt I I' f s x 0) :
     mfderiv[s] f x = 0 := by
   simp only [mfld_simps, mfderivWithin, h.mdifferentiableWithinAt, ↓reduceIte]
   simp only [HasMFDerivWithinAt, mfld_simps] at h
   rw [fderivWithin, if_pos]
-  exact h.2
+  · simp
+  · exact h.2
```
Comment (kbuzzard) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean:685]: You can do `rw [fderivWithin, if_pos (by exact h.2)]` if you want to avoid the split into two cases, but it's not clear to me that this is any clearer (I am not pushing for this change, just remarking).

File: Mathlib/Geometry/Manifold/ContMDiffMFDeriv.lean [hunk 8]
```diff
@@ -161,7 +161,7 @@ protected theorem ContMDiffWithinAt.mfderivWithin {x₀ : N} {f : N → M → M'
     · apply mdifferentiableWithinAt_extChartAt_symm
       exact PartialEquiv.map_source (extChartAt I (g x₀)) h2
     · exact inter_subset_left.trans (extChartAt_target_subset_range (g x₀))
-  rw [inTangentCoordinates_eq_mfderiv_comp, A,
+  rw [inTangentCoordinates_eq_mfderiv_comp_abuse, A,
```
Comment (kbuzzard) [inline Mathlib/Geometry/Manifold/ContMDiffMFDeriv.lean:164]: This also does not have a TODO. What are we supposed to make of the fact that somewhere in this proof defeq abuse is occurring? Is it (a) OK (b) something which should be fixed later? Will it cause slowdowns in future versions of Lean? I profiled this proof and kernel typechecking looks absolutely fine for now, so we are not paying currently, at least.

File: Mathlib/Geometry/Manifold/Instances/Sphere.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/Sphere.lean]: Indeed, the right fix is to use `mvfderiv` instead, and this is on my TODO list (at medium priority, I'd say --- until beginning of September, "finish writing two papers and a job application" are both more important and urgent).
I just tried it the replacement (again), and it's somewhat hairy --- this proof abuses defeq in several ways, and `mvfderiv` helps with some but not all of it. So, yes, there's something pre-existing to fix (and this is partially covered by the TODO above). In the interim, the `abuse` lemma at least makes explicit what's happening.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/Sphere.lean]: Never say never: there are some reasonable partial changes that I consider useful. #42374 has them.

File: Mathlib/Geometry/Manifold/Instances/Sphere.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/Sphere.lean]: ... and that PR also applies here

File: Mathlib/Geometry/Manifold/IsManifold/Basic.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/IsManifold/Basic.lean:1056]: I don't think there's such an easy replacement. If you're using this (and not proving foundational properties of the tangent space), you're doing it wrong - and should rethink your approach.

Comment (sgouezel) [reply Mathlib/Geometry/Manifold/IsManifold/Basic.lean:1056]: Yes, this simply shouldn't be used, there is no intended replacement.

File: Mathlib/Geometry/Manifold/Instances/Sphere.lean (hunk 4 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/Instances/Sphere.lean]: @kbuzzard , the goal of the current PR isn't to fix all the abuses throughout Mathlib, but only the definitions. Then I went for quick fixes, but I agree with you that it would be better to fix them more cleanly. @grunweg, thanks for your PR, let me have a look.

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 9]
```diff
@@ -638,24 +632,42 @@ theorem mdifferentiableWithinAt_congr_nhds {t : Set M} (hst : 𝓝[s] x = 𝓝[t
...
-        ((extChartAt I x) x) := by
+      ((tangentSpaceCastModel I' (f x)).symm) ∘L
+      (fderivWithin 𝕜 (writtenInExtChartAt I I' x f) ((extChartAt I x).symm ⁻¹' s ∩ range I)
+        ((extChartAt I x) x)) ∘L (tangentSpaceCastModel I x) := by
   simp only [mfderivWithin, h, if_pos]
 
+/-- Formula for the manifold derivative of a map within a set, abusing the defeq between the tangent
+space and the model space. Use instead `MDifferentiableWithinAt.mfderivWithin`, unless you have
+good reasons not to do so. -/
+protected theorem MDifferentiableWithinAt.mfderivWithin_abuse (h : MDiffAt[s] f x) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean:645]: Let's be very clear. I think this PR is an improvement, so should not be blocked on this clean-up, but this should eventually be done to.
```suggestion
-- TODO: remove last uses in mathlib and deprecate this declaration
protected theorem MDifferentiableWithinAt.mfderivWithin_abuse (h : MDiffAt[s] f x) :
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 10]
```diff
@@ -638,24 +632,42 @@ theorem mdifferentiableWithinAt_congr_nhds {t : Set M} (hst : 𝓝[s] x = 𝓝[t
...
-      fderivWithin 𝕜 (writtenInExtChartAt I I' x f :) (range I) ((extChartAt I x) x) := by
+      ((tangentSpaceCastModel I' (f x)).symm) ∘L
+      fderivWithin 𝕜 (writtenInExtChartAt I I' x f) (range I) ((extChartAt I x) x) ∘L
+      (tangentSpaceCastModel I x) := by
   simp only [mfderiv, h, if_pos]
 
+/-- Formula for the manifold derivative of a map, abusing the defeq between the tangent space
+and the model space. Use instead `MDifferentiableAt.mfderiv`, unless you have good reasons not
+to do so. -/
+protected theorem MDifferentiableAt.mfderiv_abuse (h : MDiffAt f x) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean:666]: Same here
```suggestion
-- TODO: remove last uses in mathlib and deprecate this declaration
protected theorem MDifferentiableAt.mfderiv_abuse (h : MDiffAt f x) :
```

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean (hunk 6 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:79]: I'm pretty sure it's the former, so a TODO would be nice.

**Review by grunweg — COMMENTED** [review]
Some partial review, while we're waiting for merging master over the dependent PR

**Comment by grunweg** [comment]
Heads-up: #42478 will add a few `mvfderiv` analogues of `mfderiv` lemmas, so cause a superficial conflict. I don't think there will be actual changes required.

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean (hunk 9 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/MFDeriv/Basic.lean:645]: I'm not completely sure about this. The goal of defeq abuses is to provide us with the possibility to cheat when it's convenient, otherwise there's no point in having it. So, when it's more convenient in proofs, I'm perfectly fine with using this lemma.

A related question is whether we want to make the definition of TangentSpace `implicit_reducible`. I have hesitated for a long time, but finally I think it is a good idea to do it, because the identification between the tangent space to a vector space and the vector space itself is just used very often implicitely.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/MFDeriv/Basic.lean:645]: Interesting. I'm thinking in the opposite direction: what new constructions or abstractions will enable us to reduce the use of defeq abuse?

My impression is that through better engineering, we can replace a lot of defeq abuse by better solutions (which will then play with automation more nicely, for example). Such better solutions will be more convenient also, but of course we need to find and design them.
I checked: `mfderivWithin_abuse` is not used in mathlib; `mfderiv_abuse` is used once (and indeed, rewriting that lemma's proof may require fixing the lemma statement to avoid other defeq abuse first).

I am thus not sure if we want to make `TangentSpace` implicit_reducible: the other option is making it irreducible (and using casting more). Perhaps this will be spectacularly painful (also in view of e.g. `mfderiv_comp`, whose left and right hand sides live in tangent spaces at `(g ∘ f) x` versus `g (f x)` --- these base points are defeq, but not an instance transparency).

You certainly have spent more time staring at the defeq abuse here, so I'm not convinced I'm more right than you are - but my lived experience is different than yours.

File: Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean (hunk 6 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/IntegralCurve/UniformTime.lean:82]: The issue is that the very definition `IsMIntegralCurve` abuses the defeq between the tangent space at R and R. If we want to avoid it, we should probably introduce a definition `vmfderiv`, i.e., the derivative from a vector space to a manifold, just like we have `mvfderiv` for the derivative from a manifold to a vector space. Let me add a TODO mentioning this.

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean (hunk 9 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/MFDeriv/Basic.lean:645]: The term "defeq abuse" is negative in itself, so once we start using it, it means there's something to fix.

But here I'd rather use "definitional equality" because the tangent space to a vector space *is* the same as the vector space, in paper mathematics, for a very strong meaning of *is*. And the theory has been set up in Lean precisely to keep this equality, and to make it possible to use it, just as in paper mathematics. It turns out that, if we want to use it in recent Lean versions, we have to make `TangentSpace` implicit reducible. Then so be it, because I think we want to use it!

Of course, there is a price to pay: in manifolds which are not vector spaces, the tangent space will also be the same as the model space in an implicit reducible way -- but this will not affect typeclass inference, so I don't see what bad consequences it could have.

**Comment by sgouezel** [comment]
The current state of the PR is that it fixes some abuses in some definitions, making Mathlib cleaner altogether. Some review comments ask for more TODOS saying that we should fix all the abuses, but I don't think I agree with that: the theory is set up so that the tangent space to a vector space coincides with the vector space, just like in paper mathematics, and I don't think using this is an abuse, it's a design decision. Probably we will need to make TangentSpace implicit_reducible for this design decision to work best, but that's not something I want to make in this PR.

So, IMHO, the PR is good to go and I'm not really willing to push it further in the direction of saying we should fix the "abuses".

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean (hunk 9 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/MFDeriv/Basic.lean:645]: That's fair - I retract my request for the TODO (also below).

I wonder if making TangentSpace implicit_reducible also makes it possible to write mathematically incorrect statements (e.g., applying mfderiv% f (for some f: M \to N, whose domain is not a normed space) to some vector in E, or identifying tangent spaces at non-propeq base points when working on a manifold. Having a type system is nice, if we can keep it.). I haven't checked myself yet; it's also quite possible these downsides are smaller than the upsides of the change. In any case, that's a question for the follow-up PR.

File: Mathlib/Geometry/Manifold/MFDeriv/Tangent.lean [hunk 11]
```diff
@@ -79,19 +80,37 @@ lemma inTangentCoordinates_eq_mfderiv_comp
     {ϕ : Π x : N, TangentSpace% (f x) →L[𝕜] TangentSpace% (g x)} {x₀ : N} {x : N}
     (hx : f x ∈ (chartAt H (f x₀)).source) (hy : g x ∈ (chartAt H' (g x₀)).source) :
     inTangentCoordinates I I' f g ϕ x₀ x =
-    (mfderiv% (extChartAt I' (g x₀)) (g x)) ∘L (ϕ x) ∘L
-      (mfderiv[range I] (extChartAt I (f x₀)).symm (extChartAt I (f x₀) (f x))) := by
-  rw [inTangentCoordinates_eq _ _ _ hx hy, tangentBundleCore_coordChange]
+    ((NormedSpace.fromTangentSpace (extChartAt I' (g x₀) (g x))).toContinuousLinearMap
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Tangent.lean]: Do you think this becomes nicer when using `mvfderiv` for one direction? (I haven't tried locally.)

**Review by grunweg — COMMENTED** [review]
Thanks for your patient explanations. I have one last minor suggestion --- and one request: can you update the PR description to include some more detail what you're doing here, and why you're doing this? Thanks!
bors d+

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean (hunk 9 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/MFDeriv/Basic.lean:645]: Writing such meaningless statements is already possible, and making the tangent space implicit_reducible will not change anything in this respect.

**Comment by sgouezel** [comment]
bors r+
Thanks for the review!

**Comment by grunweg** [comment]
Thanks for fixing this, and your patience throughout the review process!
